US08980888B2
<Step 4> Synthesis of 2-bromo-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylic acid
A 2 N sodium hydroxide aqueous solution (6.9 ml) was added to a mixed solution of methanol (20 ml) and water (10 ml) containing the methyl 2-bromo-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylate (2.4 g) obtained in (Example 5.16) <Step 3>. The obtained mixture was stirred for 1 hour 30 minutes. Thereafter, methanol was distilled away under reduced pressure, and the obtained aqueous solution was then washed with ethyl acetate (2 ml). Insoluble substances were removed by filtration. The filtrate was adjusted to pH 1 with concentrated hydrochloric acid, and was then extracted with a mixed solution (50 ml) of 20% isopropanol and methylene chloride five times. The organic layer was dried over anhydrous sodium sulfate, and the solvent was then distilled away under reduced pressure, so as to obtain a crude product (1.87 g) of the title compound in the form of a yellow solid.

reactant | sodium hydroxide | 2 N, 6.9 ml | [OH-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
reactant | methyl 2-bromo-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylate | 2.4 g | BrC1=NN2C(CC(CC2)C(=O)OC)=N1 | C8H10BrN3O2
solvent | water | 10 ml | O | H2O
product | 2-bromo-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylic acid | 1.87 g | BrC1=NN2C(CC(CC2)C(=O)O)=N1 | C7H8BrN3O2
